US09120749B2
2-Ethoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol
Following general procedure E, 4-bromo-2-ethoxyphenol (1.26 g, 5.80 mmol) was reacted with bis(pinacolato)diboron (1.77 g, 6.96 mmol) to afford the desired product (580 mg, 38%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 7.36 (dd, J=7.8, 1.2 Hz, 1H), 6.92 (d, J=7.9 Hz, 1H), 5.91 (s, 1H), 4.16 (q, J=7.0 Hz, 2H), 1.44 (t, J=7.0 Hz, 3H), 1.33 (s, 12H).

reactant | 4-bromo-2-ethoxyphenol | 5.80 mmol, 1.26 g | BrC1=CC(=C(C=C1)O)OCC | C8H9BrO2
reactant | bis(pinacolato)diboron | 6.96 mmol, 1.77 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 2-Ethoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 580 mg, 38% | C(C)OC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C14H21BO4
